US07662402B2
1.2 g of 2-(3,3,3-trifluoropropyl)malononitrile and 0.76 g of 4-bromomethyl-1,1-difluorocyclohexane were dissolved in 10 ml of N,N-dimethylformamide, 0.99 g of potassium carbonate was added, and the mixture was stirred at room temperature overnight. Thereafter, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with dilute hydrochloric acid and aqueous saturated sodium chloride, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 0.51 g of 2-(4,4-difluorocyclohexyl)methyl-2-(3,3,3-trifluoropropyl)malononitrile (hereinafter, referred to as the present compound (83)).

reactant | 2-(3,3,3-trifluoropropyl)malononitrile | 1.2 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | 4-bromomethyl-1,1-difluorocyclohexane | 0.76 g | BrCC1CCC(CC1)(F)F | C7H11BrF2
reactant | potassium carbonate | 0.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(4,4-difluorocyclohexyl)methyl-2-(3,3,3-trifluoropropyl)malononitrile | 0.51 g | FC1(CCC(CC1)CC(C#N)(C#N)CCC(F)(F)F)F | C13H15F5N2
